US07897607B2
Ethyl 3-[4-bromo-1-(2,4-dimethylphenyl)-1H-imidazol-5-yl]-3-oxopropanoate
To 1.6 mL (14 mmol) of mono-ethyl malonate in 35 mL of THF at 0° C. was added 9.3 mL (28 mmol) of 3.0 M methyl magnesium bromide (ether solution). The dianion solution was stirred for 30 min before adding 1.2 g (3.5 mmol) of 4-bromo-1-(2,4-dimethylphenyl)-1H-imidazole-5-carbonyl chloride hydrochloride in 50 mL of THF dropwise. The cooling bath was then removed and the mixture was allowed to stir at room temperature for 3 h. The reaction was quenched by pouring onto ice and was extracted with ethyl acetate after neutralizing to pH 7 with saturated ammonium chloride. The combined extracts were washed with brine, dried over sodium sulfate, filtered and the resulting filtrate was concentrated to an oil. The oil was purified by flash chromatography eluting with a 25% ethyl acetate/hexanes mixture to give 1.2 g (94%) of the title compound as a viscous golden oil.

reactant | mono-ethyl malonate | 14 mmol, 1.6 mL | C(CC(=O)[O-])(=O)OCC
reactant | methyl magnesium bromide | 28 mmol, 3.0 M, 9.3 mL | C[Mg]Br
reactant | 4-bromo-1-(2,4-dimethylphenyl)-1H-imidazole-5-carbonyl chloride hydrochloride | 3.5 mmol, 1.2 g | Cl.BrC=1N=CN(C1C(=O)Cl)C1=C(C=C(C=C1)C)C
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | Ethyl 3-[4-bromo-1-(2,4-dimethylphenyl)-1H-imidazol-5-yl]-3-oxopropanoate | 1.2 g, 94% | BrC=1N=CN(C1C(CC(=O)OCC)=O)C1=C(C=C(C=C1)C)C | C16H17BrN2O3
